US05932567
(d) 3-Methoxy-4-methylbenzonitrile
15 g (0.11 mol) of 3-hydroxy-4-methylbenzonitrile dissolved in 30 ml of DMF were added dropwise to a suspension of 0.11 mol of NaH in 30 ml of DMF, and the mixture was stirred until no further H2 evolution was observed. Then 10.6 ml (0.17 mol) of methyl iodide were added dropwise, and the mixture was stirred at room temperature for 1 h. The solution was poured into ice-water, and the product was extracted with ether/ethyl acetate 7:1. After the solvent had been stripped off, the product began to crystallize slowly. 14.8 g (89%) were obtained. 1H-NMR (CDCl3 ; δ in ppm): 7.2 (m, 2H); 7.02 (s, 1H); 3.85 (s, 3H); 2.25 (s, 3H).

reactant | 3-hydroxy-4-methylbenzonitrile | 0.11 mol, 15 g | OC=1C=C(C#N)C=CC1C | C8H7NO
reactant | NaH | 0.11 mol | [H-].[Na+]
reactant | methyl iodide | 0.17 mol, 10.6 ml | CI | CH3I
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-Methoxy-4-methylbenzonitrile | COC=1C=C(C#N)C=CC1C | C9H9NO
